US04387238
Following the procedure of Example 34, mono methyl potassium epoxysuccinate (1.84 g) was successively treated with oxalyl chloride (0.75 g) and monoethylamine (0.9 g) to give 0.72 g of methyl N-ethyl-2,3-epoxysuccinamate (Compound No. 54) as colorless oil.

reactant | mono methyl potassium epoxysuccinate | 1.84 g | O1C(C(=O)O)C1C(=O)O.C[K]
reactant | oxalyl chloride | 0.75 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | monoethylamine | 0.9 g | C(C)N | C2H7N
product | methyl N-ethyl-2,3-epoxysuccinamate | 0.72 g | C(C)NC(C1C(C(=O)OC)O1)=O | C7H11NO4
